US05578620
4-[5-(3-Chlorophenoxymethyl)-2-oxooxazolidin-3-yl]butanol
A procedure similar to that described in Preparation 5 was repeated, except that 1.43 g of ethyl 4-[5-(3-chlorophenoxymethyl)-2-oxooxazolidin-3-yl]butyrate (prepared as described in Preparation 116), 183 mg of sodium borohydride, 20 ml of anhydrous tetrahydrofuran and 135 mg of anhydrous methanol were used, to give 1.26 g of the title compound having an Rf value of 0.31 (on silica gel thin layer chromatography, using ethyl acetate as the developing solvent).

reactant | ethyl 4-[5-(3-chlorophenoxymethyl)-2-oxooxazolidin-3-yl]butyrate | 1.43 g | ClC=1C=C(OCC2CN(C(O2)=O)CCCC(=O)OCC)C=CC1 | C16H20ClNO5
reactant | sodium borohydride | 183 mg | [BH4-].[Na+]
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | methanol | 135 mg | CO | CH4O
product | 4-[5-(3-Chlorophenoxymethyl)-2-oxooxazolidin-3-yl]butanol | 1.26 g | ClC=1C=C(OCC2CN(C(O2)=O)CCCCO)C=CC1 | C14H18ClNO4
